### PR TITLE
feat(CategoryTheory/Monoidal): whiskering by images of monoidal functors

### PR DESCRIPTION
**Pull request by dagurtomas**
From [LeanCondensed](https://github.com/dagurtomas/LeanCondensed).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 1]
```diff
@@ -1434,3 +1434,30 @@ def monoidalOfPostcompFunctor (e : C ≌ D) (F : E ⥤ C) {F' : E ⥤ D} (i : F
...
+lemma map_whiskerLeft' (X : C) {Y Z : C} (f : Y ⟶ Z) :
+    F.obj X ◁ F.map f = μ F X Y ≫ F.map (X ◁ f) ≫ δ F X Z := by
+  rw [map_whiskerLeft]
+  simp [-μ_natural_right, -δ_natural_right_assoc, -δ_natural_right]
+
+@[reassoc]
+lemma map_whiskerRight' {X Y : C} (f : X ⟶ Y) (Z : C) :
+    F.map f ▷ F.obj Z = μ F X Z ≫ F.map (f ▷ Z) ≫ δ F Y Z := by
+  rw [map_whiskerRight]
+  simp [-μ_natural_left, -δ_natural_left_assoc, -δ_natural_left]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean]: Can't these live closer to the unprimed versions? And then the existing `variable`s there can presumably be reused?
